US08957205B2
1-[[[4-(Hydroxymethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester
Under ice-cooling, 6.94 g (36 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added to a solution of 5 g (33 mmol) of 4-(hydroxymethyl)benzoic acid, 7.7 g (33 mmol) of 1-aminocyclohexanecarboxylic acid phenylmethyl ester and 5.29 g (35 mmol) of 1-hydroxybenzotriazole in methylene chloride. After the mixture was stirred at room temperature overnight, the reaction solvent was distilled off under reduced pressure. Water was added to the residue and the mixture was extracted with ethyl acetate twice. The obtained organic layer was washed with a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution, and then saturated brine, followed by drying with anhydrous sodium sulfate. The obtained residue was purified by silica gel column chromatography to give 6.83 g (56%) of the title compound.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 36 mmol, 6.94 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-(hydroxymethyl)benzoic acid | 33 mmol, 5 g | OCC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | 1-aminocyclohexanecarboxylic acid phenylmethyl ester | 33 mmol, 7.7 g | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)N | C14H19NO2
reactant | 1-hydroxybenzotriazole | 35 mmol, 5.29 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[[[4-(Hydroxymethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester | 6.83 g, 56% | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)CO | C22H25NO4
